US04320127
Preparation of 3-(3',4',5'-trimethoxyphenyl)-1,2-diacetyl-1,2-dihydropyrido[3,2-e]-as-triazine hydrochloride
12.0 g (0.032 mole) of 3-(3',4',5'-trimethoxyphenyl)-1,2-dihydropyrido[3,2-e]-as-triazine hydrochloride are boiled in 40 ml of glacial acetic acid for a short time. The reaction mixture is cooled and the separated product is filtered off.

reactant | 3-(3',4',5'-trimethoxyphenyl)-1,2-dihydropyrido[3,2-e]-as-triazine hydrochloride | 0.032 mole, 12.0 g | Cl.COC=1C=C(C=C(C1OC)OC)C=1NNC2=C(N1)C=CC=N2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 3-(3',4',5'-trimethoxyphenyl)-1,2-diacetyl-1,2-dihydropyrido[3,2-e]-as-triazine hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C=1N(N(C2=C(N1)C=CC=N2)C(C)=O)C(C)=O | InChI=1S/C19H20N4O5.ClH/c1-11(24)22-18(13-9-15(26-3)17(28-5)16(10-13)27-4)21-14-7-6-8-20-19(14)23(22)12(2)25;/h6-10H,1-5H3;1H
